2195-12-29 11:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Self D/C'd NGT today.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-12-29**] 08:00 AM
   Other medications:
   Rifaximin, carafate, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-12-29**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.3
C (97.4
   HR: 102 (79 - 115) bpm
   BP: 118/67(79) {108/52(69) - 135/69(84)} mmHg
   RR: 21 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,720 mL
                                                                  1,629 mL
   PO:
             850 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    689 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                    400 mL
   Urine:
                                                                  1,205 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,635 mL
                                                                  1,229 mL
   Respiratory support
   FiO2: 2L
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   91 K/uL
   105 mg/dL
   1.0 mg/dL
   16 mEq/L
   2.9 mEq/L
   26 mg/dL
   125 mEq/L
   149 mEq/L
   27.9 %
   8.8 K/uL
        [image002.jpg]
                             [**2195-12-26**]  04:46 PM
                             [**2195-12-26**]  10:56 PM
                             [**2195-12-27**]  02:13 AM
                             [**2195-12-27**]  04:29 AM
                             [**2195-12-27**]  10:21 AM
                             [**2195-12-28**]  03:49 AM
                             [**2195-12-29**]  04:10 AM
   WBC
   6.5
   5.6
   6.8
   7.4
   8.8
   Hct
   27.6
   27.9
   26.3
   27.3
   27.9
   27.9
   Plt
   67
   64
   74
   81
   91
   Cr
   2.2
   2.0
   1.9
   1.7
   1.0
   TCO2
   17
   Glucose
   146
   153
   113
   107
   105
   Other labs: PT / PTT / INR:23.0/45.0/2.2, CK / CKMB / Troponin-T:98//,
   ALT / AST:75/224, Alk Phos / T Bili:260/11.6, Amylase / Lipase:203/,
   Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL, LDH:271 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Microbiology: No new micro data
   Assessment and Plan
   56 yo M with h/o etoh cirrhosis admitted with recent vomiting and now
   unresponsiveness.  Found to be in renal failure with hyperammonemia.
   Altered mental status:  Much better today.  Putting picture together,
   seems most c/w hepatic encephalopathy in the setting of recent increase
   in vomiting and dehydration and respiratory alkalosis
     -Continue Lactulose and rifaximin
    Renal Failure: Prerenal from dehydration vs HRS.  Both GFR and
   potassium have improved with hydration.
   ?GIB:  Some blood in his mouth and per partner some hematemesis
   recently.  No signs of active bleeding, HCT stable.
     -PPI and carafate
     -Possible EGD at some point in the future.
    Cirrhosis:
     -Lactulose and rifaximin as above
     -Diuretics on hold in setting of dehydration
    Etoh abuse:  Should be out of the window for withdrawal at this point.
     -Vitamin Support
     -Addiction consult
   FEN: Will po challenge today as he removed his NGT.
      -If needed, will use D5 1/2 NS for maintence given hyperchloremic
   non-gap acidosis.
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-12-26**] 03:44 PM
   18 Gauge - [**2195-12-27**] 10:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes